US08252790B2
Synthesis of 1-methyl-N-[2-(pyrrolidin-1-yl)ethyl]-5-{1H-pyrrolo[3,2-b]pyridin-2-yl}-1H-pyrazole-3-carboxamide
The intermediate 15 (120 mg, 0.5 mmol) and N-(2-amino-ethyl)pyrrolidine (59 mg, 0.5 mmol) was dissolved in DMF (4 mL). triethylamine (260 mg, 2.6 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (98 mg, 0.5 mmol) and 1-hydroxybenzotriazole monohydrate (39 mg, 0.3 mmol) were successively added to the resulting mixture at the room temperature. The obtained mixture was stirred at room temperature for 2 days. The solvent was removed under reduced pressure, and the resulting crude product was purified with a preparative HPLC system (the purification apparatus B) to afford crystalline product (15 mg, 9% yield).

reactant | N-(2-amino-ethyl)pyrrolidine | 0.5 mmol, 59 mg | NCCN1CCCC1 | C6H14N2
reactant | triethylamine | 2.6 mmol, 260 mg | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.5 mmol, 98 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.3 mmol, 39 mg | O.ON1N=NC2=C1C=CC=C2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-methyl-N-[2-(pyrrolidin-1-yl)ethyl]-5-{1H-pyrrolo[3,2-b]pyridin-2-yl}-1H-pyrazole-3-carboxamide | 15 mg, 9% yield | CN1N=C(C=C1C1=CC2=NC=CC=C2N1)C(=O)NCCN1CCCC1 | C18H22N6O
